US06156801
To a solution of 4-(benzyloxy)phenol (2.00 g, 10 mmol) in N,n-dimethylformamide (20 ml) was added potassium tert-butoxide (1.12 g, 10 mmol), followed by stirring for 10 minutes. To the reaction solution was added 4-chloro-3-nitroanisole (1.88 g, 10 mmol), followed by stirring at 150° C. for 6 hours. After allowing to stand overnight, the reaction solution was poured into water and extracted with ethyl acetate. After drying subsequent to washing with water and a saturated aqueous sodium chloride solution, the solvent was evaporated under reduced pressure. The resulting crude crystals were recrystallized from ethanol to give 4-[4-(benzyloxy)phenoxy]-3-nitroanisole (2.13 g).

reactant | 4-(benzyloxy)phenol | 10 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | potassium tert-butoxide | 10 mmol, 1.12 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-3-nitroanisole | 10 mmol, 1.88 g | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
solvent | water | O | H2O
product | 4-[4-(benzyloxy)phenoxy]-3-nitroanisole | 2.13 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C=C2)OC)[N+](=O)[O-])C=C1 | C20H17NO5
